US09024041B2
Intermediate D5: N-(4-(4-aminonaphthalen-1-yloxy)pyridin-2-yl)morpholine-4-carboxamide
A solution of N-(4-((4-nitronaphthalen-1-yl)oxy)pyridin-2-yl)morpholine-4-carboxamide (900 mg, 2.3 mmol) in a mixture of MeOH (140 mL), DCM (140 mL) and AcOH (4 drops) was subjected to hydrogenation by passage through a Thales H-cube (1.0 mL min−1, 25° C., 55 mm, 10% Pt—C Cat-Cart, full hydrogen mode). The reaction mixture was evaporated in vacuo and the residue was partitioned between DCM (50 mL) and saturated aq. NaHCO3 (20 mL). The organic phase was separated and was washed with brine (20 mL), and then dried and evaporated in vacuo to afford the title compound, Intermediate D5, as a brown solid (0.78 g, 90%); Rt 3.65 min (Method 1 basic); m/z 365 (M+H)+ (ES+).

reactant | N-(4-((4-nitronaphthalen-1-yl)oxy)pyridin-2-yl)morpholine-4-carboxamide | 2.3 mmol, 900 mg | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)OC1=CC(=NC=C1)NC(=O)N1CCOCC1 | C20H18N4O5
reactant | DCM | 140 mL | C(Cl)Cl | CH2Cl2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 140 mL | CO | CH4O
catalyst | AcOH | 4 drops | CC(=O)O | C2H4O2
catalyst | Pt—C | [Pt] | Pt
product | N-(4-(4-aminonaphthalen-1-yloxy)pyridin-2-yl)morpholine-4-carboxamide | NC1=CC=C(C2=CC=CC=C12)OC1=CC(=NC=C1)NC(=O)N1CCOCC1 | C20H20N4O3
